US08466306B2
(a) Preparation of dicyclopentyl(4-phenylcyclohexyl)phosphine-borane, Cpy2P(BH3)C6H10Ph
The product is made similarly to its analog in Example 1 from dicyclopentyl-phosphine-borane (10.6 g; 57.5 mmol.), n-butyl lithium (39.5 mL of 1.6 M solution; 63.3 mmol.) and 4-phenylcyclohexyl 4-methylbenzenesulfonate (22.8 g; 68.9 mmol.). Yield 14.5 g (74%). 31P{1H} NMR (δ, C6D6, ppm): 33.22 and 33.83 (broad); 1H NMR (δ, C6D6, ppm): 0.944 (m, 3H, BH3), 1.2-2.2 (m, 27H, cyclopentyl+cyclohexyl), 2.82 (m, 1H, PhCH), 7.0-7.25 (m, 5H, Ph).

reactant | dicyclopentyl-phosphine borane | 57.5 mmol, 10.6 g | C1(CCCC1)PC1CCCC1.B
reactant | n-butyl lithium | 63.3 mmol, 1.6 M, 39.5 mL | C(CCC)[Li]
reactant | 4-phenylcyclohexyl 4-methylbenzenesulfonate | 68.9 mmol, 22.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCC(CC1)C1=CC=CC=C1 | C19H22O3S
product | dicyclopentyl(4-phenylcyclohexyl)phosphine borane | C1(CCCC1)P(C1CCC(CC1)C1=CC=CC=C1)C1CCCC1.B | InChI=1S/C22H33P.BH3/c1-2-8-18(9-3-1)19-14-16-22(17-15-19)23(20-10-4-5-11-20)21-12-6-7-13-21;/h1-3,8-9,19-22H,4-7,10-17H2;1H3
